US04863920
3.73 g (10 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at the boiling temperature for 24 hours with 1.46 ml (12 mmol) of 3,3-dimethyl-1-butyne, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 30 ml of diethylamine. After evaporation of the reaction mixture the residue was taken up in methylene chloride and washed twice with water. The organic phase was dried over magnesium sulphate, evaporated and the residue was chromatographed on silica gel while eluting with cyclohexane/ether/isopropanol (3:3:1). After crystallization from ethyl acetate and hexane there was obtained 7-chloro-3-(3,3-dimethyl-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 126°-128°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.73 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | 3,3-dimethyl-1-butyne | 12 mmol, 1.46 ml | CC(C#C)(C)C | C6H10
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-3-(3,3-dimethyl-1-butynyl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC(C)(C)C)C)=O | C18H18ClN3O
